US05066825
40.8 g of 2-(3,4-dimethoxy-α-hydroxybenzyl)-3,4,5-trimethoxybenzaldehyde dimethyl acetal and 17.0 g of diethyl acetylenedicarboxylate are treated in the same manner as described in Example 1-(3) to give 1-(3,4-dimethoxyphenyl)-2,3-bis(ethoxycarbonyl)-4-hydroxy-6,7,8-trimethoxynaphthalene. Yield: 43%

reactant | 2-(3,4-dimethoxy-α-hydroxybenzyl)-3,4,5-trimethoxybenzaldehyde dimethyl acetal | 40.8 g | COC(C1=C(C(=C(C(=C1)OC)OC)OC)C(C1=CC(=C(C=C1)OC)OC)O)OC | C21H28O8
reactant | diethyl acetylenedicarboxylate | 17.0 g | C(#CC(=O)OCC)C(=O)OCC | C8H10O4
product | 1-(3,4-dimethoxyphenyl)-2,3-bis(ethoxycarbonyl)-4-hydroxy-6,7,8-trimethoxynaphthalene | Yield: 43% | COC=1C=C(C=CC1OC)C1=C(C(=C(C2=CC(=C(C(=C12)OC)OC)OC)O)C(=O)OCC)C(=O)OCC | C27H30O10
